US07141684B2
2,6-Diallylphenol was prepared via reacting 2-allylphenol with an allyl halide to form 2-allylphenyl ether. Refluxing the latter in o-dichlorobenzene for 24–48 hrs. gave 2,6-diallylphenol. The desired phenol was purified by distillation, bp 91–92 C(1 mm). MS m/z 174 (M+ calcd for C12H14O=174). H NMR (300 MHz, CDCl3), d 3.48 (d, 4, CH2), 5.15–5.38 (m, 4,vinyl), 5.98–6.18 (m, 2, CH vinyl), 6.85–7.15 (m, 3 aromatic). 2,6-Diallylphenol (5.2 g, 0.03 mol) was diluted with methanol (50 ml) and sodium hydroxide added to the phenol solution. Iodomethane (5.0 g, 0.03 mol.) was added to the solution and stirred overnight at room temperature. The methanol solution was diluted with water and the product extracted with hexane, dried over MgSO4, filtered and evaporated to give 2,6-diallylanisole. MS m/z 188 (M+ calcd for C13H16O=188). H NMR (300 MHz, CDCl3) d 3.45–3.55 (d, 4, CH2), 3.60 (s, 3, CH3), 5.10–5.20 (d, 4, CH2), 6.00–6.16 (m, 2, CH vinyl), 7.07–7.20 (m, 3, aromatic). 2,6-Diallylanisole was oxidized with meta-chloro perbenzoic acid as follows: MCPBA (˜70%, 5.73 g) was dissolved in dichloromethane (50 ml) and dried over MgSO4. After filtration of the MgSO4, 2,6-diallylanisole (1.88 g, 0.01 mol) was added to the MCPBA solution and stirred for 24–48 hrs. at room temperature. The precipitate, m-chlorobenzoic acid was filtered and, the dichloromethane solution washed with dilute sodium bisulfite and dilute potassium carbonate and dried over MgSO4. After filtration of the MgSO4, the dichloromethane was evaporated to give the liquid diepoxide, bp 138° C. (1 mm). MS m/z 220 (M+ calcd for C13H16O3=220). H NMR (300 MHz, CDCL3) d 2.60–2.70 (m, 2, CH2 epoxypropyl), 2.75–3.10 (m, 6, CH2 epoxypropyl), 3.25–3.50 (m, 2, CH epoxypropyl), 3.82 (s, 3, OCH3), 7.05–7.25 (m, 1, aromatic), 7.40–7.60 (m, 2, aromatic).

reactant | 2,6-diallylphenol | C(C=C)C1=C(C(=CC=C1)CC=C)O | C12H14O
reactant | 2,6-Diallylphenol | 0.03 mol, 5.2 g | C(C=C)C1=C(C(=CC=C1)CC=C)O | C12H14O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Iodomethane | 0.03 mol, 5.0 g | IC | CH3I
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | methanol | 50 ml | CO | CH4O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,6-diallylanisole | C(C=C)C1=C(C(=CC=C1)CC=C)OC | C13H16O
